US04337201
(A) (cis)-1-[(1,1-Dimethylethoxy)carbonyl]-4-(phenylmethyl)-L-proline
To a solution of cis-4-benzyl-L-proline hydrochloride (3 g) and triethylamine (5 g) in water (10 ml) is added a solution of 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile (3.5 g) in dioxane (10 ml). The mixture is stirred at ambient temperature for 4 hours. After the addition of water (30 ml), and washing with ether, the mixture is acidified to a pH of 3-4 with 10% citric acid. The oil that separates is extracted into ethyl acetate, washed with brine, and dried (MgSO4). After concentration in vacuo, the residue (3.7 g) solidifies at room temperature, melting point 145°-149° C. dec.

reactant | cis-4-benzyl-L-proline hydrochloride | 3 g | Cl.C(C1=CC=CC=C1)[C@H]1C[C@H](NC1)C(=O)O
reactant | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
reactant | 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile | 3.5 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | water | 10 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | (cis)-1-[(1,1-Dimethylethoxy)carbonyl]-4-(phenylmethyl)-L-proline | CC(C)(OC(=O)N1[C@H](C(=O)O)C[C@@H](C1)CC1=CC=CC=C1)C | C17H23NO4
